US08497278B2
Step 1: 2-(2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)acetonitrile
30.0 g of molecular sieves were activated under vacuum, at 100° C., for 1 h. 5.00 g of 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride (15.94 mmol, 1 eq), 9.38 g of NaCN (191.3 mmol, 12 eq), 428 mg of Bu4NCN (1.59 mmol, 0.1 eq), 9.56 g of NaI (63.77 mmol, 4 eq) and 150 mL of ACN were added. The mixture were stirred at RT, O/N. Sieves were filtered and washed with EtOAc. The filtrate was washed twice with NaHCO3, dried on MgSO4, filtered and concentrated to give 4.95 g of crude. It was purified by silica gel chromatography (MeOH/CH2Cl2, 0 to 5%) and gave two batches: batch #01 (very pure)=3.90 g, batch #02 (some impurities) was purified on activated carbon to give 0.90 g. Total yield=82%. m/e+=268 (M+H+).

reactant | 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride | 15.94 mmol, 5.00 g, 1 eq | Cl.ClCC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl
reactant | NaCN | 191.3 mmol, 9.38 g, 12 eq | [C-]#N.[Na+]
reactant | NaI | 63.77 mmol, 9.56 g, 4 eq | [Na+].[I-]
solvent | ACN | 150 mL | C(C)#N | C2H3N
product | 2-(2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)acetonitrile | yield=82% | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC#N | C15H10ClN3
